US05096902
Preparation of 1-phenyl-3-(3-thiazolidinyl)propan-1-one
A solution containing 8.43 g (0.05 mol) of β-chloropropiophenone, 4.10 g (0.05 mol) of anhydrous sodium acetate and 4.01 g (0.045 mol) of thiazolidine in 30 ml of ethanol is stirred at 25° C. for 8 hours. After filtering off the precipitate and evaporating the solvent from the solution, the oily yellowish residue weighing 9.3 g is converted to the hydrochloride in a mixture of acetone and ether in the usual way to give 9.9 g of product. After recrystallization from methanol, the hydrochloride of the title product thus obtained melts at 170°-171° C.; it is identical to the hydrochloride described in Examples 1 and 43.

reactant | β-chloropropiophenone | 0.05 mol, 8.43 g | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
reactant | sodium acetate | 0.05 mol, 4.10 g | C(C)(=O)[O-].[Na+]
reactant | thiazolidine | 0.045 mol, 4.01 g | S1CNCC1 | C3H7NS
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-phenyl-3-(3-thiazolidinyl)propan-1-one | 9.9 g | C1(=CC=CC=C1)C(CCN1CSCC1)=O | C12H15NOS
